US06552069B1
60% sodium hydride (0.54 g, 13.5 mmol) was added to a solution of diethyl 2-(6-heptenyl)malonate (3.0 g, 11.7 mmol) in tetrahydrofuran (30 ml) followed by stirring for 30 minutes at room temperature. 1-Iodo-4,4,5,5,6,6,7,7,7-nonafluoroheptane (5.45 g, 14.04 mmol) was added to the mixture followed by stirring for 12 hours at room temperature. After the reaction was completed, water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/25) to give diethyl 2-(6-heptenyl)-2-(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)malonate (6.14 g, quantitative) as a colorless oil.

reactant | sodium hydride | 13.5 mmol, 0.54 g | [H-].[Na+]
reactant | diethyl 2-(6-heptenyl)malonate | 11.7 mmol, 3.0 g | C(CCCCC=C)C(C(=O)OCC)C(=O)OCC | C14H24O4
reactant | 1-Iodo-4,4,5,5,6,6,7,7,7-nonafluoroheptane | 14.04 mmol, 5.45 g | ICCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C7H6F9I
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | diethyl 2-(6-heptenyl)-2-(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)malonate | 6.14 g | C(CCCCC=C)C(C(=O)OCC)(C(=O)OCC)CCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C21H29F9O4
